US05646173
A solution 11.9 g of 7-methoxy-4-chromanone, 13.8 ml of 3-buten-2-ol and 120 mg of p-toluenesulfonic acid in 14 ml of 2,2-dimethoxypropane and 120 ml of anhydrous toluene was boiled under reflux for 24 hours. The reaction mixture was subsequently concentrated in a vacuum and purified by column chromatography on silica gel (hexane/diethyl ether 4:1). 6.3 g (41%) of (RS)-2-(2-buten-1-yl)-7-methoxy-4-chromanone were obtained as a yellow oil.

reactant | 7-methoxy-4-chromanone | 11.9 g | COC1=CC=C2C(CCOC2=C1)=O | C10H10O3
reactant | 3-buten-2-ol | 13.8 ml | CC(C=C)O | C4H8O
reactant | p-toluenesulfonic acid | 120 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | 2,2-dimethoxypropane | 14 ml | COC(C)(C)OC | C5H12O2
solvent | toluene | 120 ml | C1(=CC=CC=C1)C | C7H8
product | (RS)-2-(2-buten-1-yl)-7-methoxy-4-chromanone | 6.3 g, 41% | C(C=CC)C1OC2=CC(=CC=C2C(C1)=O)OC | C14H16O3
